Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Lap band removal (___)

 
History of Present Illness:
Ms. ___ is a ___ woman s/p laparoscopic gastric band 
placement in ___ who presented to the ER with PO intolerance 
that resolved with port deflation but subsequently re-presented 
with abdominal pain. Starting six days prior to admission, the 
patient reported new-onset intolerance of solids though she was 
able to tolerate liquids. She denied nausea but reported 
regurgitating after eating. She presented to the ER on ___ 
at which point her port was deflated and she underwent barium 
swallow showing prolapse of her fundus above the band but no 
leak or obstruction. After the port was deflated, she reported 
an immediate sensation of relief of abdominal fullness and was 
able to tolerate protein shakes. However, afterwards she 
reported new intermittent epigastric abdominal pain that 
radiated to her back. The pain was not worse after drinking 
protein shakes. Denied changes in bowel function, nausea, 
vomiting, fevers, chills. 
 
Past Medical History:
-depression/ADD
-ectopic pregnancies x 2
 
Social History:
___
Family History:
noncontributory

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 99.1 HR 67 BP 117/67 ___ 97 on RA
GEN: A&O, NAD, comfortable
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, WWP
PULM: no increased work of breathing, RA
ABD: Soft, nondistended, nontender, no rebound or guarding. 
Negative ___ sign. Band port visible and palpable in left 
upper quadrant without erythema or drainage, nontender. 
Ext: No ___ edema, ___ warm and well perfused

DISCHARGE PHYSICAL EXAM:
Vitals: T=99.4F; BP=110/68mmHg; HR=69x'; RR=18x'; Sat=96% Ra 
GEN: A&Ox3, NAD, comfortable
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, WWP
PULM: no increased work of breathing, RA
ABD: Soft, nondistended, nontender, no rebound or guarding. 
Surgical dressings appear c/d/I
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 05:15AM BLOOD WBC-6.0 RBC-3.60* Hgb-11.7 Hct-34.9 
MCV-97 MCH-32.5* MCHC-33.5 RDW-12.5 RDWSD-44.6 Plt ___
___ 07:50PM BLOOD WBC-10.2* RBC-3.84* Hgb-12.3 Hct-36.6 
MCV-95 MCH-32.0 MCHC-33.6 RDW-12.8 RDWSD-44.3 Plt ___
___ 03:50PM BLOOD WBC-11.2* RBC-3.81* Hgb-12.4 Hct-37.5 
MCV-98 MCH-32.5* MCHC-33.1 RDW-12.9 RDWSD-46.1 Plt ___
___ 07:50PM BLOOD Neuts-66.5 ___ Monos-6.6 Eos-1.0 
Baso-0.4 Im ___ AbsNeut-6.78* AbsLymp-2.57 AbsMono-0.67 
AbsEos-0.10 AbsBaso-0.04
___ 03:50PM BLOOD Neuts-70.5 ___ Monos-7.1 Eos-1.1 
Baso-0.3 Im ___ AbsNeut-7.89* AbsLymp-2.30 AbsMono-0.79 
AbsEos-0.12 AbsBaso-0.03
___ 05:15AM BLOOD Glucose-88 UreaN-13 Creat-0.7 Na-142 
K-4.1 Cl-104 HCO3-29 AnGap-13
___ 07:50PM BLOOD Glucose-92 UreaN-17 Creat-0.7 Na-140 
K-4.0 Cl-100 HCO3-26 AnGap-18
___ 03:50PM BLOOD Glucose-96 UreaN-12 Creat-0.7 Na-139 
K-4.2 Cl-100 HCO3-25 AnGap-18
___ 07:50PM BLOOD ALT-13 AST-19 AlkPhos-52 Amylase-95 
TotBili-0.5
___ 05:15AM BLOOD Calcium-9.6 Phos-4.2 Mg-1.6
___ 07:50PM BLOOD Albumin-4.4

BAS/UGI w/KUB ___
IMPRESSION:  
  
Portion of the stomach is seen above the lap band consistent 
with prolapse, 
new since ___. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a history of LAGB in
___ who presented with a persistently symptomatic band prolapse 
despite port deflation. She had been otherwise afebrile and 
hemodynamically stable. Her exam was benign and her admission 
labwork including LFTs were all normal except for mild 
leukocytosis to 10.2, which was improved from the day prior to 
admission. 
She underwent Lap band removal on ___. 
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a PCA. Pain was 
very well controlled. The patient was then transitioned to 
liquid oral pain medication once tolerating a stage 3 diet. 
 CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. 
 Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
 GI/GU/FEN: The patient was initially kept NPO but then 
gradually advanced to a stage 3 diet which the patient was 
tolerating on day of discharge. 
 ID: The patient's fever curves were closely watched for signs 
of infection, of which there were none. 
 HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none. 
 Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and she was encouraged to 
get up and ambulate as early as possible. 
 At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 3 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine XR 75 mg PO DAILY 
2. Amphetamine-Dextroamphetamine XR 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild 
Duration: 7 Days 
RX *acetaminophen 650 mg/20.3 mL 650 mg by mouth every six (6) 
hours Refills:*0 
2.  HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Moderate 
Duration: 7 Days 
RX *hydromorphone 2 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY Duration: 7 Days 
RX *polyethylene glycol 3350 [ClearLax] 17 gram/dose 1 powder(s) 
by mouth once a day Refills:*0 
4.  Amphetamine-Dextroamphetamine XR 20 mg PO DAILY  
5.  Venlafaxine XR 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic lap band prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___:
 You were admitted to ___ 
because you were having trouble eating and you were having some 
abdominal pain. You underwent a procedure to remove your lap 
band on ___. You seem to be recovering well after the 
procedure, and we think that you can continue your recovery at 
home.
Discharge Instructions: Please call your surgeon or return to 
the emergency department if you develop a fever greater than 
101.5, chest pain, shortness of breath, severe abdominal pain, 
pain unrelieved by your pain medication, severe nausea or 
vomiting, severe abdominal bloating, inability to eat or drink, 
foul smelling or colorful drainage from your incisions, redness 
or swelling around your incisions, or any other symptoms which 
are concerning to you.

 Diet: Stay on Stage III diet until your follow up appointment.

 Medication Instructions:
 You can resume your home medications.
 You will be starting some new medications:
 1. You are being discharged on medications to treat the pain 
from your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST refrain from such activities while 
taking these medications.
 2. You should begin taking a chewable complete multivitamin 
with minerals. 
 3. You should take a medication called Miralax to prevent 
constipation related to narcotic pain medications.  
 4. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) Examples are Ibuprofen, Motrin, Aleve, Nuprin and 
Naproxen. These agents can cause bleeding and ulcers in your 
digestive system.

 Activity:
 No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate exercise at your discretion, no abdominal 
exercises.

 Wound Care:
 You may shower, no tub baths or swimming. 
 If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
 Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
 Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites
Thank you for allowing us to participate in your care.
-Your ___ care team.
 
Followup Instructions:
___